Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pancreatic mass 
 
Major Surgical or Invasive Procedure:
___: Staging laparoscopy with open pylorus-preserving 
pancreaticoduodenectomy and fiducial placement.
.
___: PROCEDURE:  CT-guided drainage of peripancreatic 
collection.

 
History of Present Illness:
The patient is a ___ y/o M with PMH of HTN,HLD, and OA who 
presented with
approximately 3 months of progressive darker urine, and acholic 
stools. He lost 30 lbs during this period and developed diffuse 
pruritis and jaundice. He had obstructive LFTs (ALT 353, AST 
152, AP 469, TB 6.7 with an US that demonstrated normal CBD 
(7mm) and some GB sludge. He continued to feel uncomfortable and 
arrived at the ED on ___, when a CT showed soft tissue 
prominence near the
ampulla concerning for an underlying mass. He underwent ERCP/EUS 
on ___ which showed an area ___ the mid-CBD that did not fill 
with contrast, and a plastic stent was placed.  On EUS, an 1.6 
cm mass was seen ___ the pancreatic head with several adjacent 
lymph nodes. He was evaluated by Dr. ___ possible surgical 
resection. He present today for elective Whiplle procedure. 

 
Past Medical History:
Hypertension
Osteoarthritis of L knee
Adenocarcinoma of the pancreas diagnosed ___
ERCP with stent ___

 
Social History:
___
Family History:
-Father fell off a building when pt when he was little, didn't 
seek medical care after he recovered from that. Paternal 
grandmother (she was ___ apparently was jaundiced at time of 
her death, unknown age. 
-5 brothers, one of whom had DI as a baby, now has "full blown 
DM," has also had an MI
-Sister who has autoimmune issue
-Another sister with another autoimmune disease
-One of those sisters also has brainstem mass that has been 
present since birth
Per his sister there are family members with "pancreatic 
problems" but they aren't sure of details. 
-Mother with history of ERCP but unclear why 

 
Physical Exam:
Prior To Discharge:

Gen: NAD, AxOx3
Card: RRR
Pulm: no respiratory distress
Abd: Soft, non-tender, non-distended.  
Wounds: c/d/i
Ext: No edema, warm well-perfused

 
Pertinent Results:
RECENT LABS:

___ 06:28AM BLOOD WBC-17.2* RBC-2.88* Hgb-9.0* Hct-27.8* 
MCV-97 MCH-31.3 MCHC-32.4 RDW-15.3 RDWSD-53.7* Plt ___
___ 05:43AM BLOOD Glucose-122* UreaN-7 Creat-0.9 Na-142 
K-4.4 Cl-104 HCO3-24 AnGap-14
___ 05:43AM BLOOD ALT-62* AST-44* AlkPhos-138* TotBili-1.8*
___ 05:43AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.0
___ 04:30PM ASCITES Amylase-12
___ 04:30PM ASCITES Amylase-464

MICROBIOLOGY:
___ 3:15 pm ABSCESS      Source: peripancreatic fluid 
collection. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      1+    (<1 per 1000X FIELD):   YEAST(S). 
      Reported to and read back by ___ AT 
1803 ON
      ___. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    SPARSE 
GROWTH. 
      ENTEROBACTER CLOACAE COMPLEX.    SPARSE GROWTH. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER CLOACAE COMPLEX
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

RADIOLOGY:
___ CT ABD:
IMPRESSION: 
-Status post Whipple procedure with postoperative changes. 
-2 non encapsulated small fluid pocket near the surgical bed. 

 
Brief Hospital Course:
The patient with newly diagnosed pancreatic head mass was 
admitted to the ___ Surgical Service for elective resection. On 
___, the patient underwent pylorus-preserving 
pancreaticoduodenectomy (Whipple), which went well without 
complication (please see the Operative Note for details). After 
a brief, uneventful stay ___ the PACU, the patient arrived on the 
floor NPO with an NG tube, on IV fluids, with a foley catheter 
and a JP drain x 2 ___ place, and epidural catheter for pain 
control.  The patient was hemodynamically stable.
The ___ hospital course was ___ general followed the 
Whipple Clinical Pathway. His recovery was complicated by 
intraabdominal abscess, which required ___ drainage and 
antibiotics. 

Post-operative pain was initially well controlled with epidural 
analgesia, which was converted to oral pain medication when 
tolerating clear liquids. Patient's pain was well controlled 
prior to discharge on Tylenol. The NG tube was discontinued on 
POD# 2, and the foley catheter discontinued at midnight of 
POD#4. The patient subsequently voided without problem. The 
patient was started on sips of clears on POD# 3, which was 
progressively advanced as tolerated to a regular diet by POD# 8. 


On POD 2, patient was noticed to have elevated WBC and he had 
fever. Fever work including blood/urine culture and CXR was 
obtained. Patient was started on Ceftriaxone empirically. CXR 
was negative for consolidations, and blood/urine cultures were 
negative. Patient continue to spike fever and he underwent 
abdominal CT on POD 5.

JP amylase was sent ___ the evening of  POD#6; the JP was 
discontinued on POD#7 as the output and amylase level were low.

During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirrometry, and actively participated ___ the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. The patient's blood sugar was monitored 
regularly throughout the stay; sliding scale  insulin was 
administered when indicated. 

At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs.  The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  Staples were removed, and steri-strips 
placed. The patient was discharged home without services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
See OMR
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
do not exceed more than 3000 mg/day  
2.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*28 
Syringe Refills:*0 
5.  Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
6.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth q6hr prn Disp #*5 
Tablet Refills:*0 
7.  Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 tablet(s) by mouth QIDACHS Disp 
#*56 Tablet Refills:*0 
8.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*21 Tablet Refills:*0 
9.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*11 
10.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Ampullary adenocarcinoma 
2. Intra abdominal abscess 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to the surgery service at ___ for surgical 
resection of your pancreatic mass. You recovery was complicated 
by intra abdominal abscess, which required treatment with 
antibiotics and ___ drainage. You are now safe to return home to 
complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns. During off hours call page Operator at 
___ and ask to ___ team. 
.
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood ___ your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change ___ your symptoms, or any new symptoms that concern 
you.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
JP Drain Care and ___ drain care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid ___ the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes ___ character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself ___ 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

 
Followup Instructions:
___